US04745124
A solution of methyl N-(p-methoxybenzoyl)nipecotate hydrochloride (30.7 g) and 8.4 g of sodium hydroxide in 900 ml of methanol and 45 ml of water is stirred at room temperature for seventeen hours. The solution is evaporated to dryness in vacuo, the residue diluted with toluene, and this again evaporated in dryness in vacuo. To the residue is added 1 liter of acetic anhydride and 140 ml of triethylamine, and the resulting mixture is heated under reflux for four hours. The reaction mixture is evaporated to dryness in vacuo, the residue taken up in chloroform, washed with water, dried and concentrated in vacuo. The residual oil is chromatographed on silica gel using 1:1 hexane-ethyl acetate as the eluant, and yields 16.9 g of N-(p-methoxybenzyl)-3-methylene-2-piperidone as a chromatographically pure yellow oil. Alternatively, the oil can be distilled to give analytically pure N-(p-methoxybenzyl)-3-methylene-2-piperidone, m.p. 145°-155°/0.05 mm.

reactant | methyl N-(p-methoxybenzoyl)nipecotate hydrochloride | 30.7 g | Cl.COC1=CC=C(C(=O)N2CC(C(=O)OC)CCC2)C=C1
reactant | sodium hydroxide | 8.4 g | [OH-].[Na+]
solvent | methanol | 900 ml | CO | CH4O
solvent | water | 45 ml | O | H2O
product | N-(p-methoxybenzyl)-3-methylene-2-piperidone | 16.9 g | COC1=CC=C(CN2C(C(CCC2)=C)=O)C=C1 | C14H17NO2
